US04036979
A mixture of 50 grams of 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride in 100 ml. of water is stirred at about 15° C. and a solution of 23.1 grams of potassium cyanate in 100 ml. of water is added dropwise. After completion of the addition, the mixture is warmed slowly to 70°-75° C. and held there for 1 hour. The mixture is cooled and the white solid is collected by filtration and washed with water. The solid is air-dried, pulverized, and washed with acetonitrile. Upon drying, this crude product is treated with hot acetone whereby there is obtained 5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-ylurea, m.p. 217° C. dec.

reactant | 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride | 50 grams | Cl.S1C2=C(C=C1)C(CCCC2)N
reactant | potassium cyanate | 23.1 grams | [O-]C#N.[K+]
solvent | water | O | H2O
product | 5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-ylurea | S1C2=C(C=C1)C(CCCC2)NC(=O)N | C10H14N2OS
